US07220856B2
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one (150 mg, 0.4 mmol), sodium hydride (15 mg, 0.6 mmol), N-phenyl(trifluoromethylsulfon)imide (208 mg, 0.56 mmol), and cyclopropylamine (580 μL, 6.4 mmol) are treated according to method E yielding 75 mg of 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(cyclopropylamino)quinoline. 62 mg thereof are treated with TFA-CH2Cl2 1:1 (0.6 mL) for 1 h and concentrated. The residue is converted into the title product with 4-fluorophenyl isocyanate (26 μL) and triethylamine (193 μL).

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one | 0.4 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
reactant | sodium hydride | 0.6 mmol, 15 mg | [H-].[Na+]
reactant | cyclopropylamine | 6.4 mmol, 580 μL | C1(CC1)N | C3H7N
product | 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(cyclopropylamino)quinoline | 75 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NC1CC1 | C21H27ClN4O2
